US05563141
A mixture of 4-nitrobenzylamine hydrochloride (5.00 g), triethylamine (25 ml), dry DMF (25 ml) and di-tertiary-butyl dicarbonate (6.07 g) was stirred for 16 hours then the solvent was evaporated in vacuo. The residue was partitioned between ethyl acetate (200 ml) and water (50 ml), separated and the organic phase washed successively with water, 0.5 molar sodium hydroxide, water and brine, dried (MgSO4) and evaporated. Recrystallisation of the solid residue from ethyl acetate/hexane gave N-tertiary-butyloxycarbonyl 4-nitrobenzylamine, 5.65 g: m.p. 110°-111° C.; NMR(d6DMSO) δ8.19(2H,d) 7.52(1H,bt), 7.51(2H,d), 4.24(2H,d), 1.40(9H,s); m/e 253(M+H)+ ; calculated for C12H16N2O4 : C, 57.1; H, 6.4; N, 11.1. found: C, 56.9; H, 6.3; N, 10.9%.

reactant | 4-nitrobenzylamine hydrochloride | 5.00 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
reactant | di-tertiary-butyl dicarbonate | 6.07 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-tertiary-butyloxycarbonyl 4-nitrobenzylamine | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O4
